US07745452B2
[5,6-Difluoro-4-(4-fluorophenyl)-2-oxo-3-(2,2,2-trifluoroethyl)-1,2,3,4-tetrahydroquinazolin-4-yl]acetaldehyde
To a −78° C. solution of 2.6 g (6.495 mmol) 4-allyl-5,6-difluoro-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one in 25 ml MeOH was bubbled ozone. After 15 mins at −78° C., the ozone was removed and the reaction mixture was quenched with 4.8 mL (64.946 mmol) dimethyl sulfide. After stirring at room temperature overnight, the reaction mixture was diluted with EtOAc and washed three times with water and brine. The organic layer was dried over NaSO4, filtered and concentrated in vacuo. Afforded [5,6-difluoro-4-(4-fluorophenyl)-2-oxo-3-(2,2,2-trifluoroethyl)-1,2,3,4-tetrahydroquinazolin-4-yl]acetaldehyde. 1H NMR (CDCl3, 400 MHz) δ 9.79 (s, 1H, O═CH); 8.61 (br s, 1H, ArNHC═O); 7.38-7.27 (m, 2H, ArH); 7.15-7.03 (m, 3H, ArH); 6.57-6.53 (m, 1H, ArH); 4.08 (m, 1H, C); 3.72 (dd, 1H, J=17.4 Hz, CH2C═O); 3.50 (dd, 1H J=1.28 Hz, 17.58 Hz, CH2C═O); 3.32 (m, 1H, CH2C═O). ES MS+1=403.1.

reactant | 4-allyl-5,6-difluoro-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | 6.495 mmol, 2.6 g | C(C=C)C1(N(C(NC2=CC=C(C(=C12)F)F)=O)CC(F)(F)F)C1=CC=C(C=C1)F | C19H14F6N2O
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 64.946 mmol, 4.8 mL | CSC | C2H6S
solvent | MeOH | 25 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [5,6-Difluoro-4-(4-fluorophenyl)-2-oxo-3-(2,2,2-trifluoroethyl)-1,2,3,4-tetrahydroquinazolin-4-yl]acetaldehyde | FC1=C2C(N(C(NC2=CC=C1F)=O)CC(F)(F)F)(C1=CC=C(C=C1)F)CC=O | C18H12F6N2O2
